US08937071B2
A suspension of 2-(4-bromo-2-fluorophenyl)-N-(4-((4-ethylpiperazin-1-yl)methyl)-3-(trifluoromethyl)phenyl)acetamide (413 mg, 0.822 mmol) in 1,4-dioxane (3 mL) and H2O (1 mL) was added to a solution of 3-ethoxy-2-((4-methoxybenzyl)oxy)-5-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)pyridine (317 mg, 0.822 mmol) in 1,4-dioxane (3 mL) and H2O (1 mL). PdCl2(dppf) (60.2 mg, 0.082 mmol) and Cs2CO3 (536 mg, 1.644 mmol) were added and the mixture was at 110° C. for 30 min in a microwave. The mixture was cooled to rt. Then the solution was concentrated and distributed between EA and saturated NaHCO3 solution. The combined organic extract was washed with brine, dried over MgSO4, filtered and concentrated. The crude material was purified by preparative TLC (PE/EA=1/1, Rf=0.5) to yield a light yellow solid of 2-(4-(5-ethoxy-6-((4-methoxybenzyl)oxy)pyridin-3-yl)-2-fluorophenyl)-N-(4-((4-ethylpiperazin-1-yl)methyl)-3-(trifluoromethyl)phenyl)acetamide (405 mg, 0.595 mmol, 72.4% yield): 1H NMR (400 MHz, CD3OD) δ 8.02-7.87 (m, 2H), 7.82-7.64 (m, 2H), 7.60-7.30 (m, 6H), 6.98-6.80 (m, 2H), 5.34 (s, 2H), 4.18-4.04 (m, 2H), 3.84-3.72 (m, 4H), 3.68-3.57 (m, 2H), 2.91-2.38 (m, 10H), 1.47-1.31 (m, 3H), 1.14 (s, 3H); ES-LCMS m/z 681.3 (M+H).

reactant | 2-(4-bromo-2-fluorophenyl)-N-(4-((4-ethylpiperazin-1-yl)methyl)-3-(trifluoromethyl)phenyl)acetamide | 0.822 mmol, 413 mg | BrC1=CC(=C(C=C1)CC(=O)NC1=CC(=C(C=C1)CN1CCN(CC1)CC)C(F)(F)F)F | C22H24BrF4N3O
reactant | 3-ethoxy-2-((4-methoxybenzyl)oxy)-5-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)pyridine | 0.822 mmol, 317 mg | C(C)OC=1C(=NC=C(C1)B1OC(C(O1)(C)C)(C)C)OCC1=CC=C(C=C1)OC | C21H28BNO5
reactant | Cs2CO3 | 1.644 mmol, 536 mg | C(=O)([O-])[O-].[Cs+].[Cs+]
solvent | 1,4-dioxane | 3 mL | O1CCOCC1 | C4H8O2
solvent | H2O | 1 mL | O | H2O
solvent | 1,4-dioxane | 3 mL | O1CCOCC1 | C4H8O2
solvent | H2O | 1 mL | O | H2O
catalyst | PdCl2(dppf) | 0.082 mmol, 60.2 mg | C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.Cl[Pd]Cl.[Fe+2]
product | 2-(4-(5-ethoxy-6-((4-methoxybenzyl)oxy)pyridin-3-yl)-2-fluorophenyl)-N-(4-((4-ethylpiperazin-1-yl)methyl)-3-(trifluoromethyl)phenyl)acetamide | 0.595 mmol, 405 mg, 72.4% yield | C(C)OC=1C=C(C=NC1OCC1=CC=C(C=C1)OC)C1=CC(=C(C=C1)CC(=O)NC1=CC(=C(C=C1)CN1CCN(CC1)CC)C(F)(F)F)F | C37H40F4N4O4
